US07230098B2
To a mixture of [3-(4-iodo-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-yl]-carbamic acid tert-butyl ester (100 mg, 0.234 mmol) and 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine (100 mg, 0.234 mmol) in DME (2 mL) was added Pd(dppf)2Cl2.CH2Cl2 (10 mg, 0.012 mmol) and Cs2CO3 (351 mg, 0.702 mmol). The mixture was bubbled with nitrogen for 10 min then microwaved at 150° C. for 30 min. LCMS checked that the reaction was completed. The crude reaction mixture was diluted with ethyl acetate followed by washings with water and brine. The solution was dried over MgSO4. Purification by prep-HPLC afforded a solid. The solid was stirred with 4 N HCl/dioxane (3 mL) for 3 hr at room temperature. Removal of the volatiles led to a residue that was purified by prep-HPLC to afford (6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-phenyl)-methanone (30 mg, yield 26%).

reactant | [3-(4-iodo-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-yl]-carbamic acid tert-butyl ester | 0.234 mmol, 100 mg | C(C)(C)(C)OC(NC1C2CN(CC12)C(C1=CC=C(C=C1)I)=O)=O | C17H21IN2O3
reactant | 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine | 0.234 mmol, 100 mg | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C19H22BCl2FN2O3
reactant | CH2Cl2 | 0.012 mmol, 10 mg | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 0.702 mmol, 351 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl dioxane | 4 N, 3 mL | Cl.O1CCOCC1
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-phenyl)-methanone | 30 mg, yield 26% | NC1C2CN(CC12)C(=O)C1=CC=C(C=C1)C=1C=NC(=C(C1)OC(C)C1=C(C(=CC=C1Cl)F)Cl)N | C25H23Cl2FN4O2
